US06057311
b. 1-benzyl-7-methyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine
A solution of 1-benzyl-4-tert-butyloxycarbonyl-7-methyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine (160 mg, 0.41 mmol) in chloroform (2 ml) was stirred with trifluoroacetic acid (3 ml) at room temperature for 30 minutes. The mixture was evaporated to dryness and the residue partitioned between chloroform and saturated potassium carbonate solution (30 ml/1:2). The organic layer was separated and dried (MgSO4). Filtration and evaporation of the solvent gave the product. (98 mg, 81%).

reactant | 1-benzyl-4-tert-butyloxycarbonyl-7-methyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | 0.41 mmol, 160 mg | C(C1=CC=CC=C1)N1C(CN(CCC(C2=C1C=CC=C2)C)C(=O)OC(C)(C)C)=O | C24H30N2O3
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-benzyl-7-methyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | C(C1=CC=CC=C1)N1C(CNCCC(C2=C1C=CC=C2)C)=O | C19H22N2O
